* File: INV_pex.cir.pex
* Created: Sun Nov 24 21:52:00 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%1 6 9 12 16
c0 29 0 2.21172f
c1 20 0 0.221042f
c2 19 0 0.219094f
c3 16 0 0.989286f
c4 12 0 0.633504f
c5 8 0 1.51455f
r6 28 29 8
r7 25 29 0.750455
r8 24 25 8
r9 20 28 0.0518
r10 19 22 11.9248
r11 19 21 12.2448
r12 19 20 13.2552
r13 16 22 410
r14 12 21 235
r15 8 24 0.430706
r16 7 9 14.1177
r17 7 8 16.3327
r18 5 24 0.740271
r19 4 6 6.46636
r20 4 5 8.16635
.ends

.subckt PM_XOR%C 6 10 18 22 42
c0 37 0 3.88674f
c1 36 0 0.150196f
c2 32 0 0.289783f
c3 30 0 0.050204f
c4 29 0 0.042847f
c5 26 0 0.273082f
c6 22 0 0.777897f
c7 18 0 0.770829f
c8 12 0 0.159438f
c9 10 0 0.768632f
c10 6 0 0.808264f
r11 36 37 8
r12 33 37 1.08942
r13 32 42 0.0366545
r14 32 33 8
r15 26 36 13.2552
r16 24 30 2.53326
r17 24 26 4.824
r18 20 30 11.7024
r19 20 22 340
r20 16 30 11.7024
r21 16 18 310
r22 15 42 0.0308
r23 14 15 13.2552
r24 12 29 2.28123
r25 12 14 3.31807
r26 8 29 10.6859
r27 8 10 339.5
r28 4 29 10.6859
r29 4 6 319.5
.ends

.subckt PM_XOR%3 6 9 12 16
c0 30 0 3.14154f
c1 23 0 0.0419149f
c2 21 0 0.0985199f
c3 20 0 0.175351f
c4 16 0 0.22939f
c5 12 0 1.34484f
c6 8 0 1.87894f
r7 29 30 8
r8 26 30 2.34
r9 25 26 8
r10 21 29 0.121333
r11 20 21 13.2552
r12 18 23 2.22743
r13 18 20 3.78
r14 14 23 10.4873
r15 14 16 95
r16 10 23 10.4873
r17 10 12 565
r18 8 25 0.966
r19 7 9 9.61773
r20 7 8 16.3327
r21 5 25 0.213212
r22 4 6 5.71636
r23 4 5 8.16635
.ends

.subckt PM_XOR%B 6 10 14 18 32 36 61
c0 51 0 2.08142f
c1 46 0 0.142341f
c2 44 0 0.0602352f
c3 43 0 0.0514283f
c4 39 0 0.271624f
c5 36 0 0.6179f
c6 32 0 1.03928f
c7 28 0 0.424858f
c8 25 0 0.25697f
c9 22 0 0.24024f
c10 18 0 0.579894f
c11 14 0 0.972612f
c12 10 0 0.579361f
c13 6 0 0.98251f
r14 50 51 8
r15 47 51 0.902778
r16 46 47 8
r17 40 46 0.0781053
r18 39 42 12.2962
r19 39 41 12.5402
r20 39 40 13.2552
r21 34 44 10.6859
r22 34 36 244
r23 30 44 10.6859
r24 30 32 404.5
r25 28 61 0.158025
r26 27 28 13.2552
r27 25 44 2.28123
r28 25 27 8.82651
r29 23 61 0.200725
r30 23 50 0.091
r31 22 23 13.2552
r32 20 43 2.53326
r33 20 22 4.824
r34 16 43 11.7024
r35 16 18 245
r36 12 43 11.7024
r37 12 14 405
r38 10 42 245
r39 6 41 400
.ends

.subckt PM_XOR%5 8 9 13
c0 23 0 0.255743f
c1 19 0 0.112873f
c2 16 0 0.299062f
c3 12 0 0.231241f
c4 3 0 0.0452855f
c5 2 0 0.256271f
r6 16 23 8
r7 15 16 16.3327
r8 13 15 6.51
r9 12 19 8
r10 11 12 16.3327
r11 9 11 9.09
r12 8 11 15.21
r13 5 23 0.132414
r14 4 19 0.165317
r15 3 4 0.0367091
r16 2 5 0.0376451
r17 2 3 0.572
.ends

.subckt PM_XOR%6 8 9 13
c0 23 0 0.187936f
c1 19 0 0.08535f
c2 16 0 0.146788f
c3 12 0 0.245205f
c4 3 0 0.115656f
c5 2 0 0.858121f
r6 16 23 8
r7 15 16 8.16635
r8 13 15 3.03
r9 12 19 8
r10 11 12 8.16635
r11 9 11 6.27
r12 8 11 5.88
r13 5 23 0.0998214
r14 4 19 0.0998214
r15 3 4 0.0376451
r16 2 5 0.0376451
r17 2 3 0.546
.ends

.subckt PM_XOR%7 8 9 13
c0 24 0 0.306093f
c1 20 0 0.187184f
c2 16 0 0.18144f
c3 12 0 0.234171f
c4 3 0 0.038092f
c5 2 0 0.344494f
r6 16 24 8
r7 15 16 8.16635
r8 13 15 3.03
r9 12 20 8
r10 11 12 8.16635
r11 9 11 6.27
r12 8 11 5.13
r13 5 24 0.123906
r14 4 20 0.123906
r15 3 4 0.038891
r16 2 5 0.038891
r17 2 3 0.715
.ends

.subckt PM_XOR%8 8 9 13
c0 23 0 0.229601f
c1 19 0 0.116706f
c2 16 0 0.247435f
c3 12 0 0.193364f
c4 3 0 0.041821f
c5 2 0 0.661358f
r6 16 23 8
r7 15 16 16.3327
r8 13 15 5.01
r9 12 19 8
r10 11 12 16.3327
r11 9 11 9.09
r12 8 11 13.71
r13 5 23 0.0953875
r14 4 19 0.11635
r15 3 4 0.0367091
r16 2 5 0.038891
r17 2 3 0.767
.ends

.subckt PM_XOR%9 6 9 12 16 25 29
c0 44 0 1.60489f
c1 37 0 0.046591f
c2 36 0 0.0630323f
c3 34 0 0.264536f
c4 33 0 0.237379f
c5 29 0 0.403116f
c6 25 0 1.18988f
c7 20 0 0.21951f
c8 16 0 0.431152f
c9 12 0 1.20451f
c10 8 0 1.55066f
r11 43 44 8
r12 40 44 0.793
r13 39 40 8
r14 34 39 0.0766316
r15 33 34 13.2552
r16 31 37 2.53326
r17 31 33 6.444
r18 27 37 11.7024
r19 27 29 165
r20 23 37 11.7024
r21 23 25 485
r22 21 39 0.166526
r23 20 21 13.2552
r24 18 36 2.53326
r25 18 20 5.544
r26 14 36 11.7024
r27 14 16 165
r28 10 36 11.7024
r29 10 12 485
r30 8 43 0.834235
r31 7 9 8.89773
r32 7 8 16.3327
r33 5 43 0.322741
r34 4 6 4.40386
r35 4 5 8.16635
.ends

.subckt PM_XOR%10 10 11 12
c0 22 0 0.197093f
c1 18 0 0.267236f
c2 15 0 0.135341f
c3 9 0 0.286252f
c4 3 0 0.0579422f
c5 2 0 0.360798f
r6 15 22 8
r7 14 15 16.3327
r8 12 14 7.59
r9 11 14 16.71
r10 9 18 8
r11 8 10 8.14773
r12 8 9 16.3327
r13 5 22 0.115863
r14 4 18 0.132414
r15 3 4 0.0376451
r16 2 5 0.038891
r17 2 3 0.819
.ends

.subckt PM_XOR%11 10 11 12
c0 22 0 0.0825592f
c1 18 0 0.202721f
c2 15 0 0.165085f
c3 9 0 0.153723f
c4 3 0 0.163156f
c5 2 0 1.20883f
r6 15 22 8
r7 14 15 8.16635
r8 12 14 6.27
r9 11 14 5.88
r10 9 18 8
r11 8 10 5.04136
r12 8 9 8.16635
r13 5 22 0.0998214
r14 4 18 0.0873438
r15 3 4 0.038891
r16 2 5 0.0376451
r17 2 3 0.845
.ends

.subckt PM_XOR%12 10 11 12
c0 22 0 0.115946f
c1 18 0 0.2758f
c2 15 0 0.226921f
c3 9 0 0.175907f
c4 3 0 0.0666464f
c5 2 0 0.29517f
r6 15 22 8
r7 14 15 8.16635
r8 12 14 6.27
r9 11 14 5.13
r10 9 18 8
r11 8 10 4.29136
r12 8 9 8.16635
r13 5 22 0.141607
r14 4 18 0.123906
r15 3 4 0.038891
r16 2 5 0.0376451
r17 2 3 0.663
.ends

.subckt PM_XOR%13 10 11 12
c0 22 0 0.103629f
c1 18 0 0.187574f
c2 15 0 0.14783f
c3 9 0 0.248137f
c4 3 0 0.0856275f
c5 2 0 0.53242f
r6 15 22 8
r7 14 15 16.3327
r8 12 14 13.59
r9 11 14 9.21
r10 9 18 8
r11 8 10 9.64773
r12 8 9 16.3327
r13 5 22 0.127183
r14 4 18 0.127183
r15 3 4 0.0367091
r16 2 5 0.0367091
r17 2 3 0.702
.ends

.subckt PM_XOR%A 4 8 12 16 31
c0 25 0 0.446362f
c1 24 0 0.178629f
c2 19 0 0.227661f
c3 16 0 1.14269f
c4 12 0 0.436576f
c5 8 0 1.21811f
c6 4 0 0.452781f
r7 25 31 0.1652
r8 24 27 11.2248
r9 24 26 11.2448
r10 24 25 13.2552
r11 20 31 0.139506
r12 19 22 11.2574
r13 19 21 12.2552
r14 19 20 13.2552
r15 16 27 494
r16 12 26 159.5
r17 8 22 494
r18 4 21 159.5
.ends

.subckt PM_XOR%S 5 15 18 21 24
c0 23 0 0.343876f
c1 20 0 0.38004f
c2 17 0 0.134536f
c3 14 0 1.5557f
c4 12 0 0.041616f
c5 10 0 0.0361185f
c6 7 0 1.34074f
c7 2 0 0.753422f
r8 22 24 16.0677
r9 22 23 16.3327
r10 19 21 9.94773
r11 19 20 16.3327
r12 16 18 7.81636
r13 16 17 8.16635
r14 13 15 4.44136
r15 13 14 8.16635
r16 11 23 0.2014
r17 11 12 0.0260243
r18 9 14 1.1116
r19 9 10 0.0260243
r20 8 20 0.1914
r21 8 10 0.0260243
r22 7 17 0.0359992
r23 6 12 0.0260243
r24 6 7 1.07
r25 3 10 0.0109194
r26 3 5 0.443333
r27 2 12 0.0109194
r28 2 5 0.42
.ends

.subckt PM_XOR%GND 19 41 44 47 50 53 72
c0 72 0 0.0246628f
c1 66 0 1.95424f
c2 52 0 0.204075f
c3 49 0 0.165428f
c4 46 0 0.229483f
c5 43 0 0.19676f
c6 40 0 0.239452f
c7 22 0 0.0387558f
c8 18 0 0.201355f
c9 16 0 0.0352325f
c10 13 0 0.205733f
c11 8 0 0.0914636f
c12 6 0 0.126696f
c13 4 0 0.30371f
r14 66 72 0.0264867
r15 61 72 0.0104858
r16 51 53 12.6177
r17 51 52 16.3327
r18 49 61 0.1286
r19 48 50 12.9477
r20 48 49 16.3327
r21 45 47 10.0677
r22 45 46 16.3327
r23 43 56 0.081539
r24 42 44 11.5977
r25 42 43 16.3327
r26 39 41 10.0977
r27 39 40 16.3327
r28 36 72 5.44423
r29 34 66 0.421225
r30 33 36 58.5
r31 33 34 5.44423
r32 31 34 0.49
r33 30 33 63
r34 30 31 5.44423
r35 26 31 0.39375
r36 25 26 5.44423
r37 22 56 0.00129205
r38 21 25 67.5
r39 21 22 5.44423
r40 19 30 16.1437
r41 19 25 34.4813
r42 17 52 0.09422
r43 17 18 0.00317168
r44 15 26 0.243775
r45 15 16 0.0355393
r46 14 46 0.09702
r47 14 16 0.00317168
r48 12 40 0.08932
r49 12 13 0.00317168
r50 9 72 0.0264867
r51 8 18 0.0355393
r52 8 9 0.11375
r53 7 22 0.038297
r54 6 16 0.0355393
r55 6 7 0.1575
r56 5 13 0.0355393
r57 4 22 0.038297
r58 4 5 0.35
.ends

.subckt PM_XOR%VDD 12 15 18 21 24 27 59
c0 56 0 1.48905f
c1 54 0 0.118248f
c2 53 0 0.0227728f
c3 51 0 0.0376326f
c4 37 0 0.0376326f
c5 34 0 0.0376326f
c6 30 0 0.139927f
c7 26 0 0.180868f
c8 23 0 0.214791f
c9 20 0 0.141821f
c10 17 0 0.163278f
c11 14 0 0.181963f
c12 8 0 0.0488471f
c13 6 0 0.0563736f
c14 4 0 0.188748f
r15 57 59 0.04375
r16 54 71 0.00317168
r17 53 54 16.3327
r18 51 69 0.00317168
r19 51 56 0.0355393
r20 50 53 25.875
r21 50 51 16.3327
r22 48 56 0.2436
r23 47 50 36
r24 47 48 5.44423
r25 45 48 0.46375
r26 44 47 59.625
r27 44 45 5.44423
r28 40 45 0.55125
r29 40 59 0.2464
r30 39 40 5.44423
r31 37 67 0.00317168
r32 37 57 0.0355393
r33 36 39 42.75
r34 36 37 16.3327
r35 34 65 0.00317168
r36 33 36 28.125
r37 33 34 16.3327
r38 30 63 0.00317168
r39 29 33 57.375
r40 29 30 16.3327
r41 26 71 0.07245
r42 25 27 6.46636
r43 25 26 8.16635
r44 23 69 0.10388
r45 22 24 4.44136
r46 22 23 8.16635
r47 20 67 0.10388
r48 19 21 7.81636
r49 19 20 8.16635
r50 17 65 0.06335
r51 16 18 6.65386
r52 16 17 8.16635
r53 14 63 0.06335
r54 13 15 4.40386
r55 13 14 8.16635
r56 12 44 40.6688
r57 12 39 30.2062
r58 9 51 0.0355393
r59 8 54 0.0355393
r60 8 9 0.11375
r61 7 34 0.0355393
r62 6 37 0.0355393
r63 6 7 0.13125
r64 5 30 0.0355393
r65 4 34 0.0355393
r66 4 5 0.35875
.ends

